Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin / potassium clavunulate
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/pmhx s/f afib on pradaxa, htn, hld, hx syncope, who 
presents from ___ following syncopal episode ___ ___.  

States he got up from the toilet and had a prodrome of 
lightheadedness, warmth, flushing, fading vision, and then 
lowered himself to the ground.  

As part of this prodrome, he did not have any chest pain, 
dyspnea, palpitations. He thinks he did not likely strike his 
head. He was found by family shortly after and took 
approximately 10 minutes to return to baseline mental status. 
Prior to the episode, he had been feeling well. He had even been 
shoveling snow in his driveway and had not had any exertional 
dyspnea or chest pain.  

He presented first to ___, EKG was A. fib, where he had 
an episode of bradycardia reportedly the ___ to ___ and was 
hypotensive with this. They gave him hr 30's given atropine 0.5 
mg, 2 doses 100mcg epi, with improvement in his heart rate and 
blood pressure. They also gave glucagon, calcium, and put him on 
a norepinephrine drip. Transferred to ___ for further 
evaluation.  

On arrival to the ED patient was normotensive and mentating well 
with HRs in ___. Levophed was discontinued.  
 
In the ED, initial vital signs were: 98.1 70 122/77 16 94% RA  
- Exam notable for: mild jvp and mild ___ b/l edema  
- Labs were notable for:  
CHEM 10:  
140 ___ AGap=22  
============<103; AG=22  
 4.4 19 1.5  
Ca: 9.2 Mg: 2.4 P: 4.5  
CBC: notable for WBC 14.6  
___: 13.1 PTT: 34.6 INR: 1.2  
Lactate 2.0  
proBNP: 607  
Troponin negative  
- Studies performed include:  
CT Head W/O Contrast [294] -- Preliminary Report viewable in 
WebOMR  
No evidence of acute major vascular territory infarction, 
hemorrhage, or fracture.  
AJ CXR: mild pulmonary edema  
EKG: Afib  
 
- Patient was given: 2 g calciun
 Upon arrival to the floor, the patient comfortable and 
accompanied by his wife. States he also snores quite a bit and 
often has apneic episodes where he "wakes up but doesn't 
remember."  
 
Review of Systems: (+) per HPI   
 
Past Medical History:
 - Atrial fibrillation (on dabigatran) s/p mult failed 
cardioversions (per pt)  
 - Obesity  
 - Hypertension  
 - Hyperlipidemia  
 - Gastritis  
 - Sinusitis  
 - ___ syndrome  
 - Hx c diff  
 - History of gastritis  
 - History of sinusitis  
 - Hx Right knee prepatellar septic bursitis (MSSA)  
 
Social History:
___
Family History:
 - Father: ___, MI at ___ s/p CABG, died of CHF in late ___  

 - Paternal GF: Asthma, CHF, MI in ___, died at ___  
 - Maternal GF: Prostate cancer  
 - Maternal GM: Alzheimer's disease early ___, died late ___  
 - Three paternal uncles with MIs in ___  
 - Aunt with MI in ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals- 98.4 146/88 86 20 97%RA  
 Weight: 135.6kg  
 GENERAL: AOx3, NAD  
 HEENT: Normocephalic, atraumatic. No conjunctival pallor or 
injection, sclera anicteric. Oropharynx is clear. Malampati 3  
 NECK: JVP 10cm at 15 degrees  
 CARDIAC: irregular, no m/g/r  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales.  

 BACK: Skin. no spinous process tenderness..  
 ABDOMEN: central obesity. Normal bowels sounds, non distended, 
non-tender to deep palpation in all four quadrants.  
 EXTREMITIES: No clubbing, cyanosis, or edema  
 SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
 NEUROLOGIC: CN2-12 intact.  

DISCHARGE PHYSICAL EXAM
Vitals- 98.7 ___ 20 96-97RA 
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor or 
injection, sclera anicteric. 
CARDIAC: irregular, no m/g/r  
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales.  
  
ABDOMEN: central obesity. Normal bowels sounds, non distended, 
non-tender to deep palpation in all four quadrants.  
EXTREMITIES: 1+ edema in ___ b/l
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy    

 
Pertinent Results:
ADMISSION LABS
---------------
___ 10:30PM BLOOD WBC-14.6* RBC-4.74 Hgb-15.6 Hct-44.3 
MCV-94 MCH-32.9* MCHC-35.2 RDW-13.6 RDWSD-46.5* Plt ___
___ 10:30PM BLOOD Neuts-85.0* Lymphs-9.1* Monos-4.7* 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-12.40* AbsLymp-1.32 
AbsMono-0.69 AbsEos-0.04 AbsBaso-0.06
___ 10:30PM BLOOD ___ PTT-34.6 ___
___ 10:30PM BLOOD Glucose-103* UreaN-26* Creat-1.5* Na-140 
K-4.4 Cl-103 HCO3-19* AnGap-22*
___ 10:30PM BLOOD proBNP-607*
___ 10:30PM BLOOD cTropnT-<0.01
___ 10:30PM BLOOD Calcium-9.2 Phos-4.5 Mg-2.4
___ 10:42PM BLOOD Lactate-2.0
___ 11:03AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:03AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

IMAGING
--------
CXR ___: There is mild interseptal prominence bilaterally, 
likely reflecting mild 
interstitial edema.  No focal consolidation is identified.  
There is no 
pneumothorax or pleural effusion.  Otherwise, the 
cardiomediastinal 
silhouette, hilar contours, and pleural surfaces appear normal. 
  
IMPRESSION:  
  
There is mild interseptal prominence bilaterally, likely 
reflecting mild 
interstitial edema. 

CT HEAD NON CONTRAST (___):   
FINDINGS:  
  
There is no evidence of acute major vascular territorial 
infarction, 
hemorrhage, edema, or mass effect. The ventricles and sulci are 
normal in size 
and configuration. The basilar cisterns are patent. 
  
No osseous abnormalities seen. Mild mucosal thickening is noted 
at the 
bilateral ethmoid air cells. Otherwise, the remaining visualized 
paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear. 
The orbits are 
unremarkable. 
  
IMPRESSION:  
  
No evidence of acute major vascular territory infarction, 
hemorrhage, or 
fracture. 

DISCHARGE LABS
---------------
___ 10:00AM BLOOD WBC-8.5 RBC-4.83 Hgb-15.2 Hct-45.7 MCV-95 
MCH-31.5 MCHC-33.3 RDW-13.7 RDWSD-47.6* Plt ___
___ 10:00AM BLOOD Glucose-82 UreaN-25* Creat-1.0 Na-140 
K-4.2 Cl-105 HCO3-22 AnGap-17
___ 10:00AM BLOOD Calcium-8.9 Phos-4.3 Mg-2.___ y/o M with PMHx of atrial fibrillation on 
metoprolol/diltiazem/ pradaxa s/p failed cardioversions in past 
(per patient), hypertension, who presents with vasovagal syncope 
in the setting of his dual nodal blocking agents.

#Syncope: Given the symptoms surrounding his syncopal episode, 
it is likely vasovagal in origin given his prodrome of flushed 
skin, tunneled vision, lightheadedness upon standing, following 
a bowel movement. Symptoms were likely exacerbated in the 
setting of his dual nodal blocking agents. Patient denied chest 
pain, palpitations, or dyspnea before, during, and after the 
episode. Trops x 1 negative without concerning findings on EKG. 
CT Head was negative for mass, hemorrhage, or ischemia. Vital 
signs were not orthostatic on measurement. Blood pressures and 
heart rates were well controlled prior to discharge. 

___: Cr to 1.7 at time of transfer from ___. 
Creatinine improved to 1.0 on discharge. ___ likely occurred in 
the setting of profound hypotension/bradycardia prior to 
arrival. 

#Leukocytosis: Leukocytosis to 14.6, improved to normal limits 
on discharge. Given the lack of infectious foci (negative CXR, 
negative UA, afebrile), leukocytosis was likely a stress 
response secondary to hypotension and bradycardia.

#Hypertension: Lisinopril initially held in the setting of ___ 
it was restarted on discharge.     

TRANSITIONAL ISSUES
--------------------
[]Advise outpatient ECHO to complete syncope workup
[]Advise Tilt-Table testing to complete syncope workup
[]Advise consideration of apixaban over dabigatran given 
increased risk of major bleeding associated with dabigatran 
[]Patient reportedly drinks 3 scotches daily. Advise discussion 
of drinking habits
#Code Status: Full code 
#Emergency Contact/HCP: wife ___ - ___ 

 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 40 mg PO DAILY 
2. Dabigatran Etexilate 150 mg PO BID 
3. Diltiazem Extended-Release 180 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Dabigatran Etexilate 150 mg PO BID  
2.  Diltiazem Extended-Release 180 mg PO DAILY  
3.  Lisinopril 40 mg PO DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Syncope likely vasovagal

Secondary diagnoses: Atrial fibrillation, Hypertension, Obesity, 
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ due to concern for a fainting 
episode in the setting of low heart rates and blood pressure. It 
is likely that given the medications that you have been taking 
for your heart, your body was unable to mount an appropriate 
response to raise your heart rate once you stood up. This was a 
temporary effect. You have continued to remain stable while 
hospitalized at ___. We advise that you continue your heart 
medications as they are helpful in controlling your atrial 
fibrillation and that you should discuss any changes with your 
cardiologist and your PCP.

We advise that you see your PCP (Dr. ___ and cardiologist 
(Dr. ___ within the next week. 

It was a pleasure taking care of you! We wish you the best!

Your ___ Team
 
Followup Instructions:
___